US06958353B2
Synthesis of 4-{2-[[6-(2,4-difluorophenyl)-2-pyridinyl]oxy]ethoxy}benzaldehyde
To a toluene (80 mL) solution containing 4-{2-[(6-bromo-2-pyridinyl)oxy]ethoxy}benzaldehyde (1 g) and tetrakis(triphenylphosphine)palladium (0.18 g), a 2M aqueous solution (4 mL) of sodium carbonate and a solution of 2,4-difluorophenylbenzeneboronic acid (0.64 g) in ethanol (4 mL) were added. The resultant mixture was refluxed for four hours. After completion of reaction, the reaction mixture was poured into saturated saline, and the thus-obtained toluene layer of the resultant mixture was separated. The separated layer was dried over magnesium sulfate, and the residual solvent was removed through distillation under reduced pressure. The thus-yielded residue was purified by means of a silica gel column, to thereby yield 0.71 g of the title compound as colorless crystals (yield 64.5%).

reactant | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4-{2-[(6-bromo-2-pyridinyl)oxy]ethoxy}benzaldehyde | 1 g | BrC1=CC=CC(=N1)OCCOC1=CC=C(C=O)C=C1 | C14H12BrNO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,4-difluorophenylbenzeneboronic acid | 0.64 g | FC1=C(C=CC(=C1)F)C1=C(C=CC=C1)B(O)O | C12H9BF2O2
solvent | ethanol | 4 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.18 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-{2-[[6-(2,4-difluorophenyl)-2-pyridinyl]oxy]ethoxy}benzaldehyde | yield 0.71 g, yield 64.5% | FC1=C(C=CC(=C1)F)C1=CC=CC(=N1)OCCOC1=CC=C(C=O)C=C1 | C20H15F2NO3
